US07056937B2
Step E: Synthesis of 2-(2-Methyl-pyridin-4-yl)-ethylamine
A solution of 2-[2-(2-methyl-pyridin-4-yl)-ethyl]-isoindole-1,3-dione (2.58 g, 9.69 mmol) in 20 mL of ethanol was heated to reflux for 5 hours. The reaction was allowed to cool and stirred overnight. The resulting slurry was filtered and the filtrate was concentrated. The residue was dissolved in ethyl acetate and extracted several times with 10% aqueous hydrogen chloride solution. The aqueous layers were combined and neutralized with sodium carbonate and extracted with a mixture of chloroform and isopropanol (3:1). The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated to give the tile compound as a clear colorless oil. MS(ES): m/e (EI*) 137.1 [M+H]

reactant | 2-[2-(2-methyl-pyridin-4-yl)-ethyl]-isoindole-1,3-dione | 9.69 mmol, 2.58 g | CC1=NC=CC(=C1)CCN1C(C2=CC=CC=C2C1=O)=O | C16H14N2O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-(2-Methyl-pyridin-4-yl)-ethylamine | CC1=NC=CC(=C1)CCN | C8H12N2
